US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-3-(pyridin-3-yl)-2,3-dihydrobenzimidazol-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride
1-(Pyridin-3-yl)-1,3-dihydrobenzimidazole-2-one(0.2 g) was suspended in DMF(6 ml). Sodium hydride (55% in oil, 48 mg) was added under ice cooling, and the mixture was stirred at room temperature for 30 minutes. 1-Ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.45 g) was added to the mixture. The mixture was stirred at room temperature for 3 hours. The reaction mixture was poured to ice water(100 ml), followed by extraction with ethyl acetate. The organic layer was dried over sodium sulfate and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). The purified product was condensed under reduced pressure. A 0.5N-hydrogen chloride ethanol solution(1.9 ml) was added to an isopropyl alcohol solution of the residue. The mixture was condensed under reduced pressure. Ether was added to the residue. The generated insoluble matter was separated by filtration and dried to give the title compound(0.38 g) as a white powder.

reactant | 1-(Pyridin-3-yl)-1,3-dihydrobenzimidazole-2-one | 0.2 g | N1=CC(=CC=C1)N1C(NC2=C1C=CC=C2)=O | C12H9N3O
reactant | Sodium hydride | 48 mg | [H-].[Na+]
reactant | 1-Ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.45 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCI | C17H23IN2O3
reactant | hydrogen chloride ethanol | 1.9 ml | C(C)O.Cl
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-3-(pyridin-3-yl)-2,3-dihydrobenzimidazol-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride | 0.38 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(N(C1=C2C=CC=C1)C=1C=NC=CC1)=O | InChI=1S/C29H31N5O4.ClH/c1-5-32-23-14-13-21(18-25(23)31(4)26(35)29(2,3)27(32)36)38-17-9-16-33-22-11-6-7-12-24(22)34(28(33)37)20-10-8-15-30-19-20;/h6-8,10-15,18-19H,5,9,16-17H2,1-4H3;1H
